US04780466
8-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7-one hydrochloride sesquihydrate
To a solution prepared from 8-[3-[4-(2-methoxyphenyl)1-piperazinyl]propyloxy]-7-hydroxy-8-azaspiro[4.5]decan-9-one, 60 ml of CH2Cl2 and 30 ml of trifluoroacetic acid was added triethylsilylane (1.26 ml) in one portion. The mixture was stirred at room temperature for 1.5 hours.

reactant | 8-[3-[4-(2-methoxyphenyl)1-piperazinyl]propyloxy]-7-hydroxy-8-azaspiro[4.5]decan-9-one | COC1=C(C=CC=C1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)O | C23H35N3O4
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 8-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7-one hydrochloride sesquihydrate | O.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1)=O.O.O.COC1=C(C=CC=C1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1)=O.Cl | InChI=1S/2C23H35N3O3.2ClH.3H2O/c2*1-28-21-8-3-2-7-20(21)25-16-14-24(15-17-25)12-6-18-29-26-13-11-23(19-22(26)27)9-4-5-10-23;;;;;/h2*2-3,7-8H,4-6,9-19H2,1H3;2*1H;3*1H2
